Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: UROLOGY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
R ureteral stone
 
Major Surgical or Invasive Procedure:
R ureteroscopy/lithotripsy/stent placement

 
History of Present Illness:
HISTORY OF PRESENT ILLNESS:  Ms. ___ is a ___ female
with multiple medical problems including diabetes, chronic 
kidney
disease for which she will begin dialysis in ___ (baseline
creatinine 3.5-4.5 per patient, last Cr in OMR 3.3 ___, status
post gastric bypass two to ___ years prior, recently begun on
vitamin D replacement five months prior (___), who developed
acute onset of right-sided lower back pain with nausea and
vomiting on ___ evening (two days prior).  Since that time,
she has been able to take no medications and has minimal PO
intake.  She reports that she was nauseated all day yesterday 
but
was not vomiting.  She denies fever, chills. She describes the
pain as her right flank with radiation to her R upper abdomen 
and
labia.  She does not produce much urine, voiding twice daily and
twice nightly.

 
Past Medical History:
PMH:
hypertension, obesity, anemia, severe depression, anxiety, type 
2
diabetes mellitus, diverticulitis, lower GI bleed, gout,
hyperlipidemia, insomnia, and urinary tract infections.
PSH:
hysterectomy
gastric bypass 2 or ___ years ago
body contouring surgery.  She has
lumpectomy
vein stripping

MEDS: Last dose of all meds ___ night due to N/V.
ASA 325 HS 
Norvasc 10'
Advair PRN
Albuterol PRN
Calcitriol
Citalopram 40'
Crestor 40'
Flonase PRN
Fludrocortisone 0.1'
Lasix 40'
Lorazepam ___
Iron IV Qweek
Lantus 25 HS
Humalog SS

All: PCN

 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
AVSS
Gen: NAD
Abd: soft, NT, ND

 
Pertinent Results:
___ 06:12AM BLOOD Glucose-63* UreaN-67* Creat-6.7* Na-140 
K-3.6 Cl-106 ___ AnGap-15
 
Brief Hospital Course:
The patient was admitted to Dr. ___ service from 
the ___ ED for pain control, and IV fluids.  In the morning 
she was takent to the OR for R ureteroscopy/laer lithotripsy/R 
ureteral stent placement.  There were no complications; please 
see dictated operartive note for full detail.  She was voiding 
without difficulty and did not have any pain upon arriving back 
ont he floor.  She was tolerating a regular diet.  At discharge, 
patient's pain well controlled with oral pain medications, 
tolerating regular diet, ambulating without assistance, and 
voiding without difficulty.  She is given explicit instructions 
to call Dr. ___.  She is scheduled to follow 
up with her renal doctors for ___ and preparationf 
or dialysis on ___.  She will contact them for a creatinine 
check early next week.
 
Discharge Medications:
1. Acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours).  
2. Amlodipine 5 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  

3. Citalopram 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
4. Rosuvastatin 20 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
5. Fluticasone 50 mcg/Actuation Spray, Suspension Sig: Two (2) 
Spray Nasal DAILY (Daily).  
6. Fludrocortisone 0.1 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. Oxycodone 5 mg Tablet Sig: ___ Tablets PO every four (4) 
hours as needed for pain.
Disp:*30 Tablet(s)* Refills:*0*
8. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day: 
take this medication while you are taking oxycodone.
Disp:*60 Capsule(s)* Refills:*2*
9. Lasix 40 mg Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
R ureteral stone

 
Discharge Condition:
Stable

 
Discharge Instructions:
Discharge Instructions

-No vigorous physical activity for 2 weeks. 

-Expect to see occasional blood in your urine and to experience 
urgency and frequecy over the next month.

-You may have already passed your kidney stone, or it may still 
be in the process of passing.  You may experience some pain 
associated with spasm of your ureter.  This is normal.  Take 
Motrin as directed and take the narcotic pain medication as 
prescribed if additional pain relief is needed.   

-Tylenol should be your first line pain medication, a narcotic 
pain medication has been prescribed for breakthough pain >4.  
Replace Tylenol with narcotic pain medication.  Max daily 
Tylenol dose is 4gm, note that narcotic pain medication also 
contains Tylenol (acetaminophen)

-Make sure you drink plenty of fluids to help keep yourself 
hydrated and facilitate passage of stone fragments.

-You may shower and bathe normally. 

-Do not drive or drink alcohol while taking narcotics

-Colace has been prescribed to avoid post surgical constipation 
and constipation related to narcotic pain medication, 
discontinue if loose stool or diarrhea develops.

-Resume all of your home medications, unless otherwise noted.

-Call Dr. ___ for ___ AND if you have any 
questions. 

-Please make sure to call your renal doctor or primary care 
provider to have your creatinine checked by ___.

-If you have fevers > 101.5 F, vomiting, severe abdominal pain, 
or inability to urinate, call your doctor or go to the nearest 
emergency room.
 
Followup Instructions:
___